US05599814
d. 2-(tert-Butoxycarbonyl)-6-chloro-4-trifluoromethylbenzoic acid
To a cold (-100° C.) stirred solution of N-(tert-butoxycarbonyl)-3-chloro-5-trifluoromethylaniline 93.4 g, 11.5 mM) in dry tetrahydrofuran (30 mL) under a nitrogen atmosphere was added dropwise t-butyllithium (14.2 mL of 1.7M solution, 24.2 mM) in pentane. The temperature of the reaction mixture was maintained at -103° to -98° C. during the addition and for 3.25 hr after the addition was completed. Crushed Dry Ice was then added to the cold reaction mixture which, after being allowed to warm to -75° C., was poured into water. The resulting mixture was extracted with ethyl acetate and the combined extracts were dried (MgSO4), filtered and concentrated to leave (3.2 g, 82%) the title compound as a solid white foam.

reactant | N-(tert-butoxycarbonyl)-3-chloro-5-trifluoromethylaniline | 11.5 mM, 93.4 g | C(C)(C)(C)OC(=O)NC1=CC(=CC(=C1)C(F)(F)F)Cl | C12H13ClF3NO2
reactant | t-butyllithium | 1.7M, 14.2 mL | C(C)(C)(C)[Li]
reactant | Dry Ice | C(=O)=O | CO2
reactant | water | O | H2O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2-(tert-Butoxycarbonyl)-6-chloro-4-trifluoromethylbenzoic acid | 3.2 g, 82% | C(C)(C)(C)OC(=O)C1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)Cl | C13H12ClF3O4
